US08258308B2
Methyl 2-(3-fluoro-3′-hydroxybiphenyl-4-ylamino)nicotinate
To a mixture of 2-(3-fluoro-3′-hydroxybiphenyl-4-ylamino)nicotinic acid (1 g, 3.08 mmol) and NaHCO3 (0.5 g, 6.17 mmol) in acetone (20 ml) was added dropwise dimethyl sulphate (0.47 g, 3.70 mmol). The mixture was heated to reflux overnight and then concentrated. Ethyl acetate was added to the crude and washed twice with 4% solution of NaHCO3 and brine. The organic phase was then dried over MgSO4 and concentrated in vacuo to afford 0.4 g of solid beige pure enough for the next synthetic step. Yield=36%

reactant | 2-(3-fluoro-3′-hydroxybiphenyl-4-ylamino)nicotinic acid | 3.08 mmol, 1 g | FC=1C=C(C=CC1NC1=C(C(=O)O)C=CC=N1)C1=CC(=CC=C1)O | C18H13FN2O3
reactant | NaHCO3 | 6.17 mmol, 0.5 g | C(=O)(O)[O-].[Na+]
reactant | dimethyl sulphate | 3.70 mmol, 0.47 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | Methyl 2-(3-fluoro-3′-hydroxybiphenyl-4-ylamino)nicotinate | 0.4 g, Yield=36% | FC=1C=C(C=CC1NC1=C(C(=O)OC)C=CC=N1)C1=CC(=CC=C1)O | C19H15FN2O3
